US04237019
Preparation of 1-chloro-8-thiocyanatonaphthalene
3.92 parts 8-chloro-1-naphthylamine were stirred in dilute hydrochloric at room temperature and diazotised by the careful addition of a solution of 1.52 parts sodium nitrite in water. The diazo solution was then added, at 10° C., to a stirred suspension of 3.5 parts potassium thiocyanate, 4.5 parts cuprous thiocyanate and 0.1 parts ferrous sulphate in water. After stirring the mixture for several hours, the product was filtered off and recrystallised several times from ethanol to yield 1 part of pure product, m.pt 77°-8° C. The I.R. spectrum contained a band at 2160 cm-1 due to the thiocyanate group.

reactant | 8-chloro-1-naphthylamine | ClC=1C=CC=C2C=CC=C(C12)N | C10H8ClN
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | potassium thiocyanate | [S-]C#N.[K+]
solvent | water | O | H2O
product | 1-chloro-8-thiocyanatonaphthalene | ClC1=CC=CC2=CC=CC(=C12)SC#N | C11H6ClNS
